US06184422B2
Preparation of (Z)-(1R,3S)-5-((2E,9E)-12,12,12-Trifluoro-11-trifluoromethyl-11-hydroxy-7,7-dimethyl-dodec-2,9-dienylidene)-4-methylene-cyclohexane-1,3-diol
0.83 g of tetrabutylammoniumfluoride trihydrate (2.60 mmol) in 3.5 ml of tetrahydrofuran was carefully dried by stirring during 2 h at room temperature over 1.05 g of 3 Å molecular sieve. This solution was then added to the above prepared 151 mg of (3E,10E)-12-[(Z)-(3S,5R)-3,5-bis-(tert-butyl-dimethyl-silanyloxy)-2-methylene-cyclohexylidene]-1,1,1-trifluoro-6,6-dimethyl-2-trifluoromethyl-dodeca-3,10-dien-2-ol and kept for 1.5 h at 45°. The reaction mixture was then poured onto crushed ice, extracted twice with ether, washed with water, dried over sodium sulfate and evaporated to dryness. Flash chromatography (SiO2, hexane/ethylacetate=4/6) yielded 76 mg of the title compound as colourless oil.

reactant | tetrabutylammoniumfluoride trihydrate | 2.60 mmol, 0.83 g | CCCC[N+](CCCC)(CCCC)CCCC.O.O.O.[F-]
reactant | (3E,10E)-12-[(Z)-(3S,5R)-3,5-bis-(tert-butyl-dimethyl-silanyloxy)-2-methylene-cyclohexylidene]-1,1,1-trifluoro-6,6-dimethyl-2-trifluoromethyl-dodeca-3,10-dien-2-ol | 151 mg | C(C)(C)(C)[Si](O[C@@H]1C(\C(\C[C@H](C1)O[Si](C)(C)C(C)(C)C)=C/C=C/CCCC(C/C=C/C(C(F)(F)F)(O)C(F)(F)F)(C)C)=C)(C)C | C34H58F6O3Si2
solvent | tetrahydrofuran | 3.5 ml | O1CCCC1 | C4H8O
product | (Z)-(1R,3S)-5-((2E,9E)-12,12,12-Trifluoro-11-trifluoromethyl-11-hydroxy-7,7-dimethyl-dodec-2,9-dienylidene)-4-methylene-cyclohexane-1,3-diol | 76 mg | FC(C(/C=C/CC(CCC/C=C/C=C/1\C([C@H](C[C@@H](C1)O)O)=C)(C)C)(O)C(F)(F)F)(F)F | C22H30F6O3
